US09236576B2
First, 4-bromo-2,6-di-tert-butylphenol (135.8 g; 0.476 mol) and acetonitrile (270 ml) were added, and N,O-bis(trimethylsilyl)acetamide (BSA) (106.3 g; 129.6 ml) was further added in an inert atmosphere. By stirring at 70° C. overnight, the reaction was allowed to proceed until crystals were completely deposited. The white crystals deposited thus were filtrated, dried in vacuum, and then purified by recrystallization with ethanol, to obtain white plate-shaped crystals of (4-bromo-2,6-di-tert-butylphenoxy)trimethylsilane (150.0 g; 0.420 mol).

reactant | 4-bromo-2,6-di-tert-butylphenol | 0.476 mol, 135.8 g | BrC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21BrO
reactant | N,O-bis(trimethylsilyl)acetamide | 129.6 ml, 106.3 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
solvent | acetonitrile | 270 ml | C(C)#N | C2H3N
product | (4-bromo-2,6-di-tert-butylphenoxy)trimethylsilane | 0.420 mol, 150.0 g | BrC1=CC(=C(O[Si](C)(C)C)C(=C1)C(C)(C)C)C(C)(C)C | C17H29BrOSi
